US08633175B2
To a 50 mL sealed tube was added ethyl 4-[5-({[2-(3-fluorophenyl)ethyl]amino}methyl)-2-furanyl]benzoate (100 mg, 0.27 mmol, Example X-1), 2.0 M MeOH/NH3 (20 mL), and KCN (30 mg). The reaction mixture was stirred at 125° C. overnight. The crude mixture was purified on RP-preparative HPLC to give 3 mg of 4-[5-({[2-(3-fluorophenyl)ethyl]amino}methyl)-2-furanyl]benzamide. (M+1) 339.23, 1.42 min (LC/MS method A)

reactant | ethyl 4-[5-({[2-(3-fluorophenyl)ethyl]amino}methyl)-2-furanyl]benzoate | 0.27 mmol, 100 mg | FC=1C=C(C=CC1)CCNCC1=CC=C(O1)C1=CC=C(C(=O)OCC)C=C1 | C22H22FNO3
reactant | KCN | 30 mg | [C-]#N.[K+]
solvent | MeOH NH3 | 2.0 M, 20 mL | CO.N
product | 4-[5-({[2-(3-fluorophenyl)ethyl]amino}methyl)-2-furanyl]benzamide | 3 mg | FC=1C=C(C=CC1)CCNCC1=CC=C(O1)C1=CC=C(C(=O)N)C=C1 | C20H19FN2O2
